US07410966B2
4-(6-Chloro-7-methyl-3H-imidazo[4,5-b]pyridin-2-yl)-2-nitrophenol
2,3-Diamino-5-chloro-4-methylpyridine (prepared by a method similar to Example 206a) (3.2 g, 20.3 mmol), was dissolved in acetonitrile (150 ml). 4-Hydroxy-3-nitrobenzaldehyde (3.1 g) was added, followed by p-toluenesulfonic acid monohydrate (0.7 g) and the resulting mixture was heated to reflux overnight. The solvent was then removed in vacuo and the residue dissolved in a mixture of dichloromethane and methanol (1:1). To this solution was added silica gel and the solvents were evaporated in vacuo. The silica-supported product mixture was then applied to column chromatography, eluting with first dichloromethane and then a mixture of dichloromethane and methanol 4:1. This afforded the title compound of approx. 75% purity. This material was suspended in hot EtOAc and filtered while still hot. The collected solid was approx. 95% pure. An analytical sample was prepared by semi-preparative HPLC-C18.

reactant | 2,3-Diamino-5-chloro-4-methylpyridine | NC1=NC=C(C(=C1N)C)Cl | C6H8ClN3
reactant | 4-Hydroxy-3-nitrobenzaldehyde | 3.1 g | OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H5NO4
reactant | p-toluenesulfonic acid monohydrate | 0.7 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 4-(6-Chloro-7-methyl-3H-imidazo[4,5-b]pyridin-2-yl)-2-nitrophenol | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC(=C(C=C2)O)[N+](=O)[O-])C | C13H9ClN4O3
